US05324833
1.5 g (2.51 mmol) of Fmoc-Asn(Trt)-OH are dissolved in 15 ml of tetrahydrofuran. 0.51 g (2.76 mmol) of pentafluoro-phenol is added, the solution is cooled to 0° and then 0.57 g (2.76 mmol) of dicyclohexyl-carbodiimide is also added in solid form. It is stirred at 0° for 30 minutes, at room temperature for 2 hours and again at 0° for 30 minutes. The dicyclohexylurea which has crystallized out is filtered off, and the filtrate is evaporated to dryness and triturated with 40 ml of diisopropyl ether. The powdery residue is filtered off, dried and recrystallized from methylene chloride/petroleum ether. Fmoc-Asn(Trt)-OPfp is obtained; m.p. 154°-156°, [α]D20 =-7.8° (THF).

reactant | Fmoc-Asn(Trt)-OH | 2.51 mmol, 1.5 g | N([C@@H](CC(NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C38H32N2O5
reactant | pentafluoro-phenol | 2.76 mmol, 0.51 g | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | dicyclohexyl-carbodiimide | 2.76 mmol, 0.57 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | Fmoc-Asn(Trt)-OPfp | N([C@@H](CC(NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)OC1=C(F)C(F)=C(F)C(F)=C1F)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C44H31F5N2O5
